US07655669B2
A mixture of 4-bromo-3-(trifluoromethyl)-benzonitrile (Yonezawa et al., Synthetic Communications (1996) 26, 1575-8; 2.47 g, 12 mmol), 1-methylpiperazine (Fluka, Buchs, Switzerland, 5.33 mL, 48 mmol) and 15 mL N,N-dimethylacetamide is stirred in a tightly closed vessel for 14 hours at 95° C. After cooling, the reaction mixture is evaporated to dryness under reduced pressure and the residue is treated with a half-saturated aqueous solution of sodium carbonate and extracted with ethyl acetate. The combined extracts are dried (Na2SO4) and the solvent is evaporated off under reduced pressure. The crude product is purified by column chromatography on silica gel, eluent methylene chloride/methanol to give 4-(4-methyl-1-piperazinyl)-3-(trifluoromethyl)-benzonitrile as a pale yellow oil.

reactant | 4-bromo-3-(trifluoromethyl)-benzonitrile | 12 mmol, 2.47 g | BrC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3BrF3N
reactant | 1-methylpiperazine | 48 mmol, 5.33 mL | CN1CCNCC1 | C5H12N2
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | 4-(4-methyl-1-piperazinyl)-3-(trifluoromethyl)-benzonitrile | CN1CCN(CC1)C1=C(C=C(C#N)C=C1)C(F)(F)F | C13H14F3N3
